US05001125
A mixture of 3.2 parts of 3-chloro-6-(methylsulfonyl)pyridazine, 3 parts of 1-(3-methylphenyl)piperazine, 2 parts of N,N-diethylethanamine and 180 parts of benzene was stirred for 24 hours at reflux. The reaction mixture was evaporated. Water was added to the residue. The precipitated product was filtered off, washed with water and dissolved in trichloromethane. The solution was dried, filtered and evaporated. The residue was crystallized from methanol. The product was filtered off and dried, yielding 5 parts (89%) of 3-[4-(3-methylphenyl)-1piperazinyl]-6-(methylsulfonyl)pyridazine; mp. 201° C. (compound 209).

reactant | 3-chloro-6-(methylsulfonyl)pyridazine | ClC=1N=NC(=CC1)S(=O)(=O)C | C5H5ClN2O2S
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-[4-(3-methylphenyl)-1piperazinyl]-6-(methylsulfonyl)pyridazine | 89% | CC=1C=C(C=CC1)N1CCN(CC1)C=1N=NC(=CC1)S(=O)(=O)C | C16H20N4O2S
